US06248740B1
Production of ethyl 2-[6-[3-[4-(diphenylmethyl)piperazino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride
1.31 g of 4-(diphenylmethyl)-1-piperazinepropanamine and 567 mg of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate were stirred at 185° C. for 3 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 0.80 ml of a 4 N hydrogen chloride solution in ethyl acetate was added, followed by concentration again. Ethanol was added to the residue; the crystal precipitated was collected by filtration, washed with ethanol-ethyl acetate (1:3) and dried to yield 502 mg of the title compound.

reactant | 4-(diphenylmethyl)-1-piperazinepropanamine | 1.31 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN)C1=CC=CC=C1 | C20H27N3
reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 567 mg | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 2-[6-[3-[4-(diphenylmethyl)piperazino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride | 502 mg | Cl.Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2 | InChI=1S/C32H40N6O2.3ClH/c1-4-40-31(39)32(2,3)27-24-38-29(34-27)17-16-28(35-38)33-18-11-19-36-20-22-37(23-21-36)30(25-12-7-5-8-13-25)26-14-9-6-10-15-26;;;/h5-10,12-17,24,30H,4,11,18-23H2,1-3H3,(H,33,35);3*1H
